US06444679B1
2-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-pyrimidine-5-carboxylic Acid (2-Hydroxy-1,1-dimethyl-ehtyl)-amide
To a stirring solution of 2-[1-benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid (375 mg, 0.93 mmol) in 10 mL of CH2Cl2 at room temperature was added oxalyl chloride (0.11 mL, 0.12 mmol) and 0.01 mL DMF. After 1 hour, triethyl amine (0.52 mL, 3.72 mmol) and 2-amino-2-methyl-propan-1-ol (0.13 mL, 1.39 mmol) was added and the resulting mixture stirred for 60 minutes. The reaction was quenched by the addition of NaOH and poured into CH2Cl2. The layers were separated, the aqueous layer was extracted with CH2Cl2 (3×20 mL), and the combined organic layers were dried, filtered and concentrated to yield 350 mg of the desired product. 1HNMR (400 MHz, CDCl3) δ 8.98 (s, 2H), 7.28-7.21 (comp, 5H), 7.15 (t, 1H), 6.94-6.91 (comp, 2H), 6.65 (d, 1H), 6.29 (br s, 1H), 3.73 (s, 3H), 3.65 (s, 2H), 3.38 (s, 2H), 2.98-2.96 (comp, 2H), 2.85-2.76 (comp, 2H), 2.33-2.21 (comp, 2H), 2.11-2.08 (comp, 2H), 1.39 (s, 6H); MS (M+1) 475.1.

reactant | 2-[1-benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid | 0.93 mmol, 375 mg | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=NC=C(C=N1)C(=O)O | C24H25N3O3
reactant | oxalyl chloride | 0.12 mmol, 0.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethyl amine | 3.72 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-2-methyl-propan-1-ol | 1.39 mmol, 0.13 mL | NC(CO)(C)C | C4H11NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
product | 2-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-pyrimidine-5-carboxylic Acid (2-Hydroxy-1,1-dimethyl-ehtyl)-amide | 350 mg | OCC(C)(C)NC(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)OC | C28H34N4O3
